US07691882B2
3-(3-(4-(4-Fluoro-pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (3 mL) solution of (4-(4-fluoro-pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride (200 mg, 0.679 mmol) described in Manufacturing Example 59-1-5 and 3-ethynyl-pyridin-2,6-diamine (57.7 mg, 0.433 mmol) described in Manufacturing Example 13-1-3 was added triethylamine (237 μL, 1.7 mmol). This mixture was stirred for 4 hours at room temperature. This mixture was partitioned into water and ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1˜ethyl acetate) to obtain the title compound (113 mg, 43%).

reactant | (4-(4-fluoro-pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride | 0.679 mmol, 200 mg | FC1=CC(=NC=C1)OCC1=CC=C(C=C1)CC(=NO)Cl | C14H12ClFN2O2
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.433 mmol, 57.7 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 1.7 mmol, 237 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-(4-Fluoro-pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 113 mg, 43% | FC1=CC(=NC=C1)OCC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C21H18FN5O2
